* Hybrid cassette sensor conditioning AFE - LTspice screening netlist
* Concept-only: verify op-amp model, resistor tolerance, RTD lead compensation,
* surge energy, layout, creepage/clearance and fault behaviour on actual hardware.
.param VREF=2.5 RTD=100 RREF=100 GAIN=25
V24 V24 0 24
* PT100 bridge: 1 mA excitation approximated by 2.5 V / 2.5k source branch
VEXC VEXC 0 {VREF}
RBIAS VEXC NRTD 2.49k
RPT NRTD 0 {RTD}
RREF VEXC NREF 2.49k
RREFLEG NREF 0 {RREF}
* Ideal instrumentation-amplifier behavioural model; replace with validated part macro-model.
BINA VIN 0 V={GAIN*(V(NRTD)-V(NREF))+VREF}
* 2nd-order Butterworth low-pass: two unity-gain Sallen-Key approximation stages,
* fc=10 Hz; R=15.8k, C=1uF each. Buffer represented by VCVS.
R1 VIN N1 15.8k
C1 N1 0 1u
E1 N2 0 N1 0 1
R2 N2 N3 15.8k
C2 N3 0 1u
E2 VOUT 0 N3 0 1
RLOAD VOUT 0 100k
* 24V pump PWM line with source impedance, TVS clamp and inductive load surrogate.
VPWM PWM_SRC 0 PULSE(0 3.3 0 1u 1u 2m 4m)
RGATE PWM_SRC PWM_G 100
DTVSP PWM_G 0 DTVS24
RPULLP PWM_G 0 100k
LPU P24 NPUMP 1m
RPU NPUMP 0 8
DTVS24 V24 0 DTVS24
* 24V fan PWM line with equivalent TVS clamp.
VFAN FAN_SRC 0 PULSE(0 3.3 0 1u 1u 1m 2m)
RGF FAN_SRC FAN_G 100
DTVSF FAN_G 0 DTVS24
RPULLF FAN_G 0 100k
* Auxiliary IR permit: LED side is SELV; transistor side is dry contact only.
VPERMIT PERMIT 0 PULSE(0 3.3 0 1u 1u 10m 20m)
RLED PERMIT LED_A 220
DLED LED_A 0 DLED
* Current-controlled switch represents optocoupler output; isolate from mains model.
HOPTO DRY_A DRY_B VLED 100k
VLED PERMIT LED_A 0
RDRY DRY_A DRY_B 1Meg
.model DLED D(Is=1e-14 N=2)
.model DTVS24 D(BV=33 IBV=1m Rs=0.5 Cjo=1n)
.tran 0 100m 0 10u
.ac dec 100 0.1 1k
.step param RTD list 90 100 110 1000 1090 1100
.meas tran VoutAvg AVG V(VOUT) FROM=40m TO=90m
.end
